US09227976B2
4-[(4-chloro-3,5-diphenyl-pyrazolo[3,4-c]pyridazin-1-yl)methyl]oxazole (Compound IIh)
Compound IIh was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and oxazol-4-ylmethanol following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | oxazol-4-ylmethanol | O1C=NC(=C1)CO | C4H5NO2
product | 4-[(4-chloro-3,5-diphenyl-pyrazolo[3,4-c]pyridazin-1-yl)methyl]oxazole | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CC=2N=COC2 | C21H14ClN5O
